US07476666B2
Step 4: Ethyl 3-[(tert-butoxycarbonyl)amino]-2-(methylsulfonyloxy)propanoate
To a solution of ethyl 3-[(tert-butoxycarbonyl)amino]-2-hydroxypropanoate (18.6 g, 79.72 mmol) and diisopropylethylamine (34.7 mL, 199.3 mmol) in anhydrous CH2Cl2 at −30° C. was added methane sulfonic anhydride (16.7 g, 95.7 mmol). The reaction was stirred for 1 hour, and the solvent removed in vacuo. The residue was purified by flash column chromatography on silica gel using a gradient elution of 15-50% EtOAc/hexanes. Collection and concentration of appropriate fractions afforded the title product as a yellow oil. 1H NMR (400 MHz, d6-DMSO) δ 7.18 (t, J=5.6 Hz, 1H), 5.03 (dd, J=4.4, 6.4 Hz, 1H), 4.16 (d, J=7.2, 14.0 Hz, 2H), 3.43-3.33 (m, 2H), 3.21 (s, 3H), 1.37 (s, 9H), 1.77 (t, J=7.2 Hz, 3H).

reactant | ethyl 3-[(tert-butoxycarbonyl)amino]-2-hydroxypropanoate | 79.72 mmol, 18.6 g | C(C)(C)(C)OC(=O)NCC(C(=O)OCC)O | C10H19NO5
reactant | diisopropylethylamine | 199.3 mmol, 34.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methane sulfonic anhydride | 95.7 mmol, 16.7 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Ethyl 3-[(tert-butoxycarbonyl)amino]-2-(methylsulfonyloxy)propanoate | C(C)(C)(C)OC(=O)NCC(C(=O)OCC)OS(=O)(=O)C | C11H21NO7S
